US06358973B1
N-[3-cyclopentyl-2-(3-methoxy-phenyl]-2-(3,5-dichloro-pyridin-4-yl)-acetamide
By working in a way similar to that described in example 4 but using (3,5-dichloro-pyridin-4-yl)-acetic acid (1.94 g, 9.43 mmoles), carbonyldiimidazole (1.68 g, 10.373 mmoles), THF (30 ml) and 3-cyclopentyl-2-(3-methoxy-phenyl)-propylamine (2.2 g, 9.43 mmoles), obtained as described in example 8, 3.35 g of the title compound were obtained (yield: 98.3%), m.p.: 106-107° C.

reactant | (3,5-dichloro-pyridin-4-yl)-acetic acid | 9.43 mmoles, 1.94 g | ClC=1C=NC=C(C1CC(=O)O)Cl | C7H5Cl2NO2
reactant | carbonyldiimidazole | 10.373 mmoles, 1.68 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-cyclopentyl-2-(3-methoxy-phenyl)-propylamine | 9.43 mmoles, 2.2 g | C1(CCCC1)CC(CN)C1=CC(=CC=C1)OC | C15H23NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-cyclopentyl-2-(3-methoxy-phenyl]-2-(3,5-dichloro-pyridin-4-yl)-acetamide | 3.35 g, yield: 98.3% | C1CC(CC1)C(C(=O)N)(C1=C(C=NC=C1Cl)Cl)C1=CC(=CC=C1)OC | C19H20Cl2N2O2
